US06313113B1
4-[(2,2-diethoxy]ethoxy]benzaldehyde
To a stirred suspension of sodium hydride (2.5 g, 100 mmol, 98%) in DMF (100 mL) was added a solution of 4-hydroxy benzaldehyde (10.0 g, 82 mmol) in DMF (100 mL) slowly dropwise at 25-30° C. and stirred for 30 min at 25-30° C. 2,2-diethoxy-1-bromoethane (19.7 g, 100 mmol) was added to the reaction mixture. The reaction mixture was immersed in a preheated oil bath at 60° C. and stirring was continued for 48 h at 60° C. The reaction mixture was cooled to room temperatures, quenched with water (200 mL) and extracted with ethyl acetate (3×300 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and concentrated. The crude compound was purified by column chromatography using EtOAc:pet. ether (1:2) as eluent to yield the title compound (12.65 g, 58%) as a brown coloured liquid.

reactant | sodium hydride | 100 mmol, 2.5 g | [H-].[Na+]
reactant | 4-hydroxy benzaldehyde | 82 mmol, 10.0 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 2,2-diethoxy-1-bromoethane | 100 mmol, 19.7 g | C(C)OC(CBr)OCC | C6H13BrO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-[(2,2-diethoxy]ethoxy]benzaldehyde | 12.65 g, 58% | C(C)OC(COC1=CC=C(C=O)C=C1)OCC | C13H18O4
